US07015233B2
5-piperidin-1-yl-2,3-dihydro-1H-inden-1-ylamine
5-Piperidin-1-ylindan-1-one O-methyloxime (2.95 g, 12 mmol), 10% palladium on carbon (1.45 g), and 20% ammonia in methanol (80 ml), were placed in a Parr apparatus which was charged with hydrogen to 60 psi. The mixture was shaken for 1 hour at ambient temperature and filtered. The filtrate was removed under vacuum to provide the title compound which was used without further purification. 1H NMR (CDCl3) δ 1.53–1.60 (m, 2H), 1.65–1.79 (m, 4H), 2.42–2.53 (m, 1H), 2.69–2.81 (m, 1H), 2.86–2.96 (m, 1H), 3.12 (t, 4H), 4.31 (t, 1H), 6.82 (m, 2H), 7.20 (d, 1H); MS (DCI) 217 (M+H)+.

reactant | 5-Piperidin-1-ylindan-1-one O-methyloxime | 12 mmol, 2.95 g | CON=C1CCC2=CC(=CC=C12)N1CCCCC1 | C15H20N2O
reactant | ammonia | N | H3N
reactant | hydrogen | [H][H] | H2
catalyst | palladium on carbon | 1.45 g | [Pd] | Pd
solvent | methanol | 80 ml | CO | CH4O
product | 5-piperidin-1-yl-2,3-dihydro-1H-inden-1-ylamine | N1(CCCCC1)C=1C=C2CCC(C2=CC1)N | C14H20N2
